US07915424B2
3-(4-Fluorophenylethynyl)-5-methylpyridine
Prepare essentially as described in PREPARATION 10 using 3-bromo-5-methylpyridine, (prepared as described in PREPARATION 1), (196 mg, 1.14 mmol) and 1-ethynyl-4-fluorobenzene (150 mg, 1.25 mmol) to give the title compound (60 mg, 25%).

reactant | 3-bromo-5-methylpyridine | 1.14 mmol, 196 mg | BrC=1C=NC=C(C1)C | C6H6BrN
reactant | 1-ethynyl-4-fluorobenzene | 1.25 mmol, 150 mg | C(#C)C1=CC=C(C=C1)F | C8H5F
product | 3-(4-Fluorophenylethynyl)-5-methylpyridine | 60 mg, 25% | FC1=CC=C(C=C1)C#CC=1C=NC=C(C1)C | C14H10FN
